US07345178B2
310 mg of 2-(3-nitrophenyl)thiazolo[5,4-c]pyridine (1.2 mmol) was mixed with 30 mL of MeOH along with 6 mL of water. Sodium hydrosulfide hydrate (6 eq, 7.24 mmol, 400 mg) was added and the reaction mixture was stirred under reflux for 3 hours. The reaction mixture was cooled to room temperature and concentrated. The aqueous layer was extracted with methylene chloride. The combined organic layers were dried (Na2SO4) and concentrated to afford 230 mg of 3-(thiazolo[5,4-c]pyridin-2-yl)benzenamine (84% crude yield) (MS, M++H=228).

reactant | 2-(3-nitrophenyl)thiazolo[5,4-c]pyridine | 1.2 mmol, 310 mg | [N+](=O)([O-])C=1C=C(C=CC1)C=1SC=2C=NC=CC2N1 | C12H7N3O2S
reactant | MeOH | 30 mL | CO | CH4O
reactant | Sodium hydrosulfide hydrate | 7.24 mmol, 400 mg, 6 eq | O.[SH-].[Na+]
solvent | water | 6 mL | O | H2O
product | 3-(thiazolo[5,4-c]pyridin-2-yl)benzenamine | 230 mg | N1=C(SC=2C=NC=CC21)C=2C=C(C=CC2)N | C12H9N3S
